US05047411
A mixture of 4-methyl-2-[1-[3-benzyloxy-4-nitrocinnamoylamino)ethyl]pyridine (12.5 g) and 10% palladium on carbon (2 g) in a mixture of methanol (250 ml) and tetrahydrofuran (100 ml) was hydrogenated under one atmospheric pressure of hydrogen gas at ambient temperature for 4 hours. Insoluble material was filtered off, and the filtrate was evaporated in vacuo to give 4-methyl-2-[1-{3-(4-amino-3-hydroxyphenyl)propionamido}ethyl]pyridine (8.95 g).

reactant | 4-methyl-2-[1-[3-benzyloxy-4-nitrocinnamoylamino)ethyl]pyridine | 12.5 g | CC1=CC(=NC=C1)C(C)NC(C=CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C24H23N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-methyl-2-[1-{3-(4-amino-3-hydroxyphenyl)propionamido}ethyl]pyridine | 8.95 g | CC1=CC(=NC=C1)C(C)NC(CCC1=CC(=C(C=C1)N)O)=O | C17H21N3O2
